US07816380B2
A mixture of potassium acetate (3.10 g, 31.6 mmol), tert-butyl[(5-bromo-3-fluoropyridin-2-yl)methyl]carbamate (3.21 g, 10.5 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (2.94 g, 11.6 mmol) in a sealed tube reaction vessel capped with a rubber septum was dissolved in 10 mL of DMSO. This heterogeneous mixture was then evacuated and purged with nitrogen three times prior to introduction of [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II), complex with DCM (1:1) (0.385 g, 0.530 mmol). The heterogeneous mixture was then evacuated and purged with nitrogen twice before the septum was replaced with a teflon screw-top cap. This sealed vessel was then heated to 90° C. for 2 hours. After cooling to ambient temperature, potassium carbonate (2.91 g, 21.1 mmol), water (10.5 mL), 5-(2-bromo-4-chloro-6-fluorophenyl)-2-methyl-2H-tetrazole (3.38 g, 11.6 mmol) and additional palladium catalyst (0.385 g, 0.530 mmol) were added and the reaction was sealed again. After heating to 80° C. for 1 hour, the reaction was cooled, quenched with water, and partitioned between EtOAc and water. The mixture was filtered through a plug of celite with EtOAc. The aqueous layer was extracted once with EtOAc. The combined organic layers were washed with additional water and then brine prior to drying over sodium sulfate. Filtration and solvent removal provided material which was subjected to chromatography on silica gel eluting with 0-15% EtOAc in hexanes to yield tert-butyl({5-[5-chloro-3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]-3-fluoropyridin-2-yl}methyl)carbamate.

reactant | potassium acetate | 31.6 mmol, 3.10 g | C(C)(=O)[O-].[K+]
reactant | tert-butyl[(5-bromo-3-fluoropyridin-2-yl)methyl]carbamate | 10.5 mmol, 3.21 g | C(C)(C)(C)OC(NCC1=NC=C(C=C1F)Br)=O | C11H14BrFN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 11.6 mmol, 2.94 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | DCM | 0.530 mmol, 0.385 g | C(Cl)Cl | CH2Cl2
reactant | potassium carbonate | 21.1 mmol, 2.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(2-bromo-4-chloro-6-fluorophenyl)-2-methyl-2H-tetrazole | 11.6 mmol, 3.38 g | BrC1=C(C(=CC(=C1)Cl)F)C=1N=NN(N1)C | C8H5BrClFN4
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | palladium | 0.530 mmol, 0.385 g | [Pd] | Pd
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 10.5 mL | O | H2O
product | tert-butyl({5-[5-chloro-3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]-3-fluoropyridin-2-yl}methyl)carbamate | C(C)(C)(C)OC(NCC1=NC=C(C=C1F)C1=C(C(=CC(=C1)Cl)F)C=1N=NN(N1)C)=O | C19H19ClF2N6O2
